** Advanced Linear Devices Timer library
** Devices renamed to clarify manufacturer
** 0.1p capacitance added to output pin
** ires_p model added
**
** This line marks this library as a system library
** Models in this library will not appear in the
** "User Models" or "New Models" categories
**
** 19.11.2010 - changed cgso/cgdo to 1e-10 in 1502_x
**
**
* Library of Advanced Linear Devices, Inc. definitions
*
* Copyright 2004 Advanced Linear Devices, Inc.
*   Neither this library nor any part may be copied without the express
*   written consent of Advanced Linear Devices, Inc.
*
* $Revision:  1.3  $
* $Date:    6 Feb 2004 00:00:00  $
* -----------------------------------------------------------------------------
*
* This library of models and macromodels is being supplied to users as an aid to
* circuit design. While it reflects reasonably close similarity to the actual device
* in terms of performance, it is not suggested as a replacement for bread-
* boarding. Simulation should be used as a forerunner or a supplement to
* traditional lab testing.
*
* Users should very carefully note the following factors regarding these 
* models:
* Advanced Linear Devices, Inc.
* Customer Support Group
* 415 Tasman Drive
* Sunnyvale, California. 94089
* Tel: (408) 747-1155 
* Fax: (408) 747-1286
* techsupport@aldinc.com
* -----------------------------------------------------------------------------
**
* TIMER MACROMODEL
* Advanced Linear Devices.
*
*  connections a,s package pins.
.subckt 555/ALD 1 2 3 4 5 6 7 8
x1       1  2  3  4  5  6  7  8  B 1502_x
r1   8   5  ires_p 450K
r2   5   B  ires_p 450K
r3   B   1  ires_p 450K
c1   5   8  4.6p
c2   B   8  4.6p
.model ires_p RES R=1
.ends 555
*
* connections  a,s package.
.subckt 1502/ALD 1 2 3 4 5 6 7 8
x1       1  2  3  4  5  6  7  8  B 1502_x
r1   8   5  ires_p 450K
r2   5   B  ires_p 450K
r3   B   1  ires_p 450K
c1   5   8  4.6p
c2   B   8  4.6p
.model ires_p RES R=1
.ends 1502
*
* connections a,s package but with an extra node, the trigger bias node.
.subckt 1502_b/ALD 1 2 3 4 5 6 7 8 B 
x1       1  2  3  4  5  6  7  8  B 1502_x
r1   8   5  ires_p 450K
r2   5   B  ires_p 450K
r3   B   1  ires_p 450K
c1   5   8  4.6p
c2   B   8  4.6p
.model ires_p RES R=1
.ends 1502_b
*
*
* 1502_x simplified, (current sources) transistor level model for MACRO. 
* Advanced Linear Devices
*
* connections:   gnd (global common 0 )
*                |  trigger
*                |  |  output
*                |  |  |  reset
*                |  |  |  |  control
*                |  |  |  |  |  threshold
*                |  |  |  |  |  |  discharge
*                |  |  |  |  |  |  |  vcc supply
*                |  |  |  |  |  |  |  |  |-bias input
.subckt  1502_x  1  2  3  4  5  6  7  8  14
*
* trigger comparator
mp1  19   2  13   8 pch w=240u l=9u
mp2  15  14  13   8 pch w=240u l=9u
mn3  15  15   1   1 nch w=120u l=11u
mn4  19  15   1   1 nch w=120u l=11u
* reset logic
mn5  19  18   1   1 nch w=80.u l=6u  
mn6  18   4   1   1 nch w=80.u l=6u
mn7  20  19   1   1 nch w=80.u l=6u  
qt9   8  18  20   8 bn

mn8  21  20   1   1 nch w=80.u l=6u 
mp10 21  20   8   8 pch w=200u l=6u 
mn11 22  21   1   1 nch w=560u l=6u 
mp12 22  21   8   8 pch w=1400u l=6u 
mn13 20  21   1   1 nch w=5.9u  l=30.u 
mp14 20  21   8   8 pch w=5.9u  l=10u 
mp15 20  23   8   8 pch w=88u   l=6u  
*
* output stage
mp16  3  22   8   8 pch w=720u l=6u 
mn17  3  22   1   1 nch w=2800u l=6u 
mn18  7  22   1   1 nch w=8400u l=6u 
*
* threshold comparator
mn19  23   6  10  10 nch w=240u l=11u 
mn20   9   5  10  10 nch w=240u l=11u 
mp21   9   9   8   8 pch w=134u  l=9u 
mp22  23   9   8   8 pch w=134u  l=9u 
*
*bias current
r18   18   8   100K
i10   10   1   15u
i13   13   8   -5u
* capacitors
c09    9   1  0.1p
c10   10   1  0.1p
c15   15   1  0.1p
c18   18   1  0.1p
c19   19   1  0.1p
c20   20   1  0.08p
c21   21   1  0.1p
c22   22   1  0.2p
c23   23   1  0.12p

Cout 3 1 0.1p
*
.model bn npn (bf=100 va=200 cje=4p cjc=5p cjs=5p tf=1.4n
+              tr=200n rb=1000 rc=3000 re=20 ikr=100u is=4e-16)
*
** Added by SIMetrix Technologies Ltd - CGDO parameter to help convergence.
** Value used is much lower than is likely for real device
.model nch nmos (level=1 VTO=0.6 TOX=.055u UO=600  
+                LAMBDA=.05 GAMMA=1.1 RD=7 RS=7 CGDO=1e-10)
.model pch pmos (level=1 VTO=-0.7 TOX=.055u UO=260  
+                LAMBDA=.06 GAMMA=.58 RD=14 RS=14 CGDO=1e-10)
.ends
*